US06046220
2-Hydroxy-4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) -1-propyny]benzenemethanol.
760 mg (2.2 mmol) of methyl 2-hydroxy-4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate and 20 ml of toluene are introduced into a three-necked flask under a stream of nitrogen. 4.4 ml of diisobutylaluminium hydride (1 M in toluene) are added at -78° C. and the mixture is allowed to return to room temperature. 9 ml of methanol and then 9 ml of hydrochloric acid (1 N) are successively introduced. The reaction medium is poured into an ethyl acetate/water mixture and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and then evaporated. The residue is purified by chromatography on a column of silica eluted with a mixture of ethyl acetate and heptane (50/50% by volume). After evaporation of the solvents, 200 mg (30%) of the expected alcohol are collected, with a melting point of 94-5° C.

reactant | methyl 2-hydroxy-4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate | 2.2 mmol, 760 mg | OC1=C(C(=O)OC)C=CC(=C1)C#CCC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H28O3
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminium hydride | 1 M, 4.4 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 N, 9 ml | Cl | ClH
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | methanol | 9 ml | CO | CH4O
product | 2-Hydroxy-4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl) -1-propyny]benzenemethanol | OC1=C(C=CC(=C1)C#CCC1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CO | C24H28O2
